US04798828
Ethyl 1,2,4-triazole-3-carboxylate hydrochloride
1,2,4-Triazole-3-carboxylate (16 g) [G. I. Chipen and V. Ya. Grinshtein, Chem. Heterocyclic Compd. (U.S.S.R), 1,420 (1965)] dissolved in ethanol (400 ml) was saturated with HCl gas. Ice-bath cooling was applied to avoid overheating during saturation and the reaction was left stirring for three days. The product which had precipitated out was filtered off and washed with cold ethanol and then diethyl ether before being dried under vacuum giving 12 g of the product, 48% yield. νmax (Nujol Mull) 1754 cm-1.

reactant | 1,2,4-Triazole-3-carboxylate | 16 g | N1N=C(N=C1)C(=O)[O-]
reactant | HCl | Cl | ClH
reactant | ethanol | 400 ml | C(C)O | C2H6O
product | Ethyl 1,2,4-triazole-3-carboxylate hydrochloride | 12 g, 48% yield | Cl.N1N=C(N=C1)C(=O)OCC | InChI=1S/C5H7N3O2.ClH/c1-2-10-5(9)4-6-3-7-8-4;/h3H,2H2,1H3,(H,6,7,8);1H
